* Testbench: Mode Control — Fast Ramp (12 V/us)
.include "parasitic_res_po.spice"
.lib "../sky130.lib.spice" tt
.include "design.cir"
.option method=gear reltol=1e-3 abstol=1e-12 vntol=1e-6 gmin=1e-12
.option itl1=300 itl2=200 itl4=50
Vbvdd bvdd gnd PWL(0 0 0.875u 10.5)
Vpvdd pvdd gnd 5.0
Vsvdd svdd gnd 2.2
Vref  vref gnd 1.226
Ven   en_ret gnd 0
XDUT bvdd pvdd svdd gnd vref en_ret bypass_en ea_en ref_sel uvov_en ilim_en pass_off mode_control
.tran 1n 1u uic
.control
run
echo "works_fast_ramp: 1"
.endc
.end
